US05939448
A solution of 2-benzyloxy-1-chloroethane (Synthesis, 1990, 495.) (7.2 g, 0.043 mol) and thiourea (3.2 g; 0.043 mol) in 95% ethanol (50 ml) was refluxed for 24 hours. To the reaction mixture, potassium hydroxide (4 g, 0.061 mol) and water (40 ml) were added and they were refluxed for 5 hours. The solvent was then distilled off under reduced pressure. The residue was neutralized with a 10% aqueous solution of sulfuric acid, followed by extraction with ethyl ether. The ether solution was washed with water, dried over sodium sulfate and then distilled off under reduced pressure, whereby 2-benzyloxyethanethiol (4.2 g, yield: 59.0%) was obtained as a colorless oil.

reactant | 2-benzyloxy-1-chloroethane | 0.043 mol, 7.2 g | C(C1=CC=CC=C1)OCCCl | C9H11ClO
reactant | thiourea | 0.043 mol, 3.2 g | NC(=S)N | CH4N2S
reactant | potassium hydroxide | 0.061 mol, 4 g | [OH-].[K+]
reactant | water | 40 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-benzyloxyethanethiol | 4.2 g, yield: 59.0% | C(C1=CC=CC=C1)OCCS | C9H12OS
